US06960664B2
A solution of crude tert-butyl 2-((2S,3S)-3-{[(benzyloxy)carbonyl]-amino}-2-hydroxy-4-(3,5-difluorophenyl)butyl)-2-ethylhydrazinecarboxylate (906 mg, 1.8 mmol) in MeOH (15 mL) was added to 10% Pd/C (95 mg) and stirred in a hydrogen atmosphere (ambient pressure) for 4 h. The catalyst was filtered off over Celite and the filtrate was concentrated under reduced pressure to yield crude tert-butyl 2-((2S, 3S)-3-amino-2-hydroxy-4-(3,5difluorophenyl)butyl)-2-ethylhydrazinecarboxylate. MS (ESI+) for C17H27F2N3O3 m/z 360.2 (M+H)+.

reactant | tert-butyl 2-((2S,3S)-3-{[(benzyloxy)carbonyl]-amino}-2-hydroxy-4-(3,5-difluorophenyl)butyl)-2-ethylhydrazinecarboxylate | 1.8 mmol, 906 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H](CN(NC(=O)OC(C)(C)C)CC)O)CC1=CC(=CC(=C1)F)F | C25H33F2N3O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 95 mg | [Pd] | Pd
product | tert-butyl 2-((2S, 3S)-3-amino-2-hydroxy-4-(3,5difluorophenyl)butyl)-2-ethylhydrazinecarboxylate | N[C@H]([C@H](CN(NC(=O)OC(C)(C)C)CC)O)CC1=CC(=CC(=C1)F)F | C17H27F2N3O3
